US05650428
The procedure described in Example 105 was repeated, except that (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-methanesulfonyloxypropanamide (101.7 mg) was reacted with 3-hydroxypyridine to obtain (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-(pyridin-3-yloxy)propanamide (62.5 mg).

reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-methanesulfonyloxypropanamide | 101.7 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)COS(=O)(=O)C | C20H23ClN2O8S2
reactant | 3-hydroxypyridine | OC=1C=NC=CC1 | C5H5NO
product | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-(pyridin-3-yloxy)propanamide | 62.5 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)COC=1C=NC=CC1 | C24H24ClN3O6S
